US04230635
Add 2.5 g (22 mmole) of methanesulfonyl chloride dropwise to 5.5 g (15 mmole) of 2-bromo-4-(hexafluoro-2-hydroxy-2-propyl)-6-methoxyaniline in 30 ml of pyridine below 10° C. Allow to stand overnight. Pour into H2O and decant. Dissolve the oil in Et2O, wash with 1N HCl and extract with 1N NaOH. Acidify the NaOH with HCl and extract with Et2O. Dry and concentrate. Chromatograph the oil on silica gel, eluting with CHCl3. Recrystallize from CH2Cl2 to obtain 2'-bromo-4'-(hexafluoro-2-hydroxy-2-propyl)-6'-methoxymethanesulfonanilide; m.p. 38°-41° C.

reactant | methanesulfonyl chloride | 22 mmole, 2.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-bromo-4-(hexafluoro-2-hydroxy-2-propyl)-6-methoxyaniline | 15 mmole, 5.5 g | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)OC | C10H8BrF6NO2
reactant | H2O | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2'-bromo-4'-(hexafluoro-2-hydroxy-2-propyl)-6'-methoxymethanesulfonanilide | BrC1=C(NS(=O)(=O)C)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)OC | C11H10BrF6NO4S
